### ISSUE TITLE
Type-class search fails for `∀ [foo], bar`

### ISSUE THREAD

**Issue by gebner** [leanprover-community/lean#429]
```lean
class foo (n : ℕ) : Prop :=
(has_true : true)

class bar (n : ℕ) : Prop :=
(has_true : true)

@[reducible] def quux := ∀ n [foo n], bar n

lemma have_quux : quux := by intros n h; constructor; constructor

example [quux] : quux := by apply_instance
example [∀ n [foo n], bar n] : quux := by apply_instance
example [∀ n [foo n], bar n] : ∀ n [foo n], bar n := by apply_instance
example [∀ n [foo n], bar n] (n) [foo n] : bar n := by apply_instance
example [quux] (n) [foo n] : bar n := by apply_instance
```

I'm not sure if we should/can fix this in general because it conflicts with the frozen instances policy.  Although in this case here it could be solved via unification.
